US09416111B2
PdCl2(dppf)-CH2Cl2 adduct (0.012 g, 0.015 mmol), N-(3-bromo-5-methylphenyl)-4-cyclopropylpyrimidin-2-amine (0.036 g, 0.120 mmol), [2-(3-ethoxy-3-oxopropyl)pyrimidin-5-yl]boronic acid (0.022 g, 0.1 mmol), and sodium carbonate (100 μL, 0.200 mmol) were suspended in dioxane (750 uL) and heated to 100° C. for 14 hours. Si-dimercaptotriazine (0.185 g, 0.1 mmol) was added to the reaction mixture. The vessel was sealed and allowed to stir at room temperature for 4 hours. The mixture was filtered, washing with DMSO (1 mL) and concentrated under reduced pressure at 40° C. The residue, dissolved in 2 mL of DMSO, was purified by mass triggered reverse phase HPLC to afford ethyl 3-(5-{3-[(4-cyclopropylpyrimidin-2-yl)amino]-5-methylphenyl}pyrimidin-2-yl)propanoate. MS ESI calcd. For C23H26N5O2 [M+H]+ 404. found 404. 1H NMR (600 MHz, DMSO-d6) δ 9.46 (s, 1H), 8.92 (s, 2H), 8.24 (d, J=5.0 Hz, 1H), 7.96 (s, 1H), 7.55 (s, 1H), 7.10 (s, 1H), 6.78 (d, J=5.1 Hz, 1H), 4.01 (q, J=7.1 Hz, 2H), 3.18 (t, J=7.0 Hz, 2H), 2.82 (t, J=7.0 Hz, 2H), 2.31 (s, 3H), 1.99 (m, 1H), 1.12 (t, J=7.1 Hz, 3H), 1.06-0.96 (m, 4H).

reactant | N-(3-bromo-5-methylphenyl)-4-cyclopropylpyrimidin-2-amine | 0.120 mmol, 0.036 g | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C1CC1 | C14H14BrN3
reactant | [2-(3-ethoxy-3-oxopropyl)pyrimidin-5-yl]boronic acid | 0.1 mmol, 0.022 g | C(C)OC(CCC1=NC=C(C=N1)B(O)O)=O | C9H13BN2O4
reactant | sodium carbonate | 0.200 mmol, 100 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 750 uL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | ethyl 3-(5-{3-[(4-cyclopropylpyrimidin-2-yl)amino]-5-methylphenyl}pyrimidin-2-yl)propanoate | C1(CC1)C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)CCC(=O)OCC | C23H25N5O2
